US05837720
N-Carboxymethyl-2-(3,4-dichlorophenyl)-N-[2-(3-(S)-hydroxypyrrolidin-1-yl)-1-(S)-phenylethyl]acetamide
A mixture of N-(t-butoxycarbonyl)methyl-2-(3,4-dichlorophenyl)-N-[2-(3-(S)-hydroxypyrrolidin-1-yl)-1-(S)-phenylethyl]acetamide (306 mg, 0.6 mmol), HCl gas saturated methanol solution (8 ml), and methanol (2 ml) was refluxed with stirring for 2 h. After evaporation of the solvent, the resulting oil was crystallized from CH2Cl2 /MeOH to give 153 mg (52.3%) of desired compound as HCl salt of white powder.

reactant | N-(t-butoxycarbonyl)methyl-2-(3,4-dichlorophenyl)-N-[2-(3-(S)-hydroxypyrrolidin-1-yl)-1-(S)-phenylethyl]acetamide | 0.6 mmol, 306 mg | C(C)(C)(C)OC(=O)CN(C(CC1=CC(=C(C=C1)Cl)Cl)=O)[C@H](CN1C[C@H](CC1)O)C1=CC=CC=C1 | C26H32Cl2N2O4
reactant | HCl | 8 ml | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | N-Carboxymethyl-2-(3,4-dichlorophenyl)-N-[2-(3-(S)-hydroxypyrrolidin-1-yl)-1-(S)-phenylethyl]acetamide | 153 mg, 52.3% | C(=O)(O)CN(C(CC1=CC(=C(C=C1)Cl)Cl)=O)[C@H](CN1C[C@H](CC1)O)C1=CC=CC=C1 | C22H24Cl2N2O4
